US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(4-chlorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 4-chlorophenylboronic acid (134 mg, 0.85 mmol) the subtitle compound was obtained (148 mg, 68%). 1H NMR (CDCl3) δ 8.74(s, 1H), 8.45(dd, 1H), 7.90(d, 1H), 7.64(d, 1H), 7.55(d, 3H), 7.44(d, 2H), 7.26(d, 1H), 4.07(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 4-chlorophenylboronic acid | 0.85 mmol, 134 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(4-chlorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)Cl | C20H13ClN2O4
